US09193719B2
Ethyl cyclohexanecarbimidate hydrochloride (1.8 g, 9.2 mmol) was suspended in hexanes (22.9 mL) and cooled to 0° C. 2,4,6-Collidine (4.1 mL, 30.9 mmol) and ethyl chloroformate (1.9 g, 17.8 mmol) were sequentially added and the mixture was allowed to warm to RT and stirred for 12 h. The solvent was removed in vacuo. The residue was suspended in EtOAc (50 mL) and the solids were removed by filtration through diatomaceous earth. The filter cake was washed with EtOAc (3×10 mL) and the combined filtrates were concentrated in vacuo to afford ethyl N-ethoxycarbonylcyclohexanecarbimidate (2.0 g, 96%) as a yellow amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 4.09 (q, J=7.1 Hz, 2H), 4.02 (q, J=7.1 Hz, 2H), 2.41-2.31 (m, 1H), 1.70-1.65 (m, 4H), 1.40-1.36 (m, 2H), 1.26-1.09 (m, 4H), 1.19 (t, J=7.1 Hz, 6H).

reactant | Ethyl cyclohexanecarbimidate hydrochloride | 9.2 mmol, 1.8 g | Cl.C1(CCCCC1)C(OCC)=N
reactant | 2,4,6-Collidine | 30.9 mmol, 4.1 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | ethyl chloroformate | 17.8 mmol, 1.9 g | ClC(=O)OCC | C3H5ClO2
product | ethyl N-ethoxycarbonylcyclohexanecarbimidate | 2.0 g, 96% | C(C)OC(=O)N=C(OCC)C1CCCCC1 | C12H21NO3
